US07435823B2
Preparation of 4-(4-methylpiperazin-1-yl)carbonylmethylaniline
A solution of 1-methyl-4-[(4-nitrophenyl)acetyl]piperazine(1.5 g, 5.70 mmol) in EtOH (30 mL) was reduced over palladium/charcoal (10% wt, 50% wet, 150 mg) with hydrogen under atmospheric pressure and RT for 18 h. The catalyst was separated by filtration through Celiteo and the solvent evaporated to the title compound as a brown oil, 1.12 g.

reactant | 1-methyl-4-[(4-nitrophenyl)acetyl]piperazine | 5.70 mmol, 1.5 g | CN1CCN(CC1)C(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H17N3O3
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | palladium/charcoal | [Pd] | Pd
product | 4-(4-methylpiperazin-1-yl)carbonylmethylaniline | CN1CCN(CC1)C(=O)CC1=CC=C(N)C=C1 | C13H19N3O
